US04296114
1-(4-Chlorophenyl)1,2-dihydro-3-methyl-6-acetyl-quinoxalin-2-one
Preparation as in Example 1 but using ethyl pyruvate and N-(4-chlorophenyl)-4-acetylbenzene-1,2-diamine.

reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
reactant | N-(4-chlorophenyl)-4-acetylbenzene-1,2-diamine | ClC1=CC=C(C=C1)NC=1C(=CC(=CC1)C(C)=O)N | C14H13ClN2O
product | 1-(4-Chlorophenyl)1,2-dihydro-3-methyl-6-acetyl-quinoxalin-2-one | ClC1=CC=C(C=C1)N1C(C(=NC2=CC(=CC=C12)C(C)=O)C)=O | C17H13ClN2O2
